US04370328
4-(2-methanesulphonamidoethyl)pyridine (8.4 g.) in ethanol (85 ml.) was acidified to pH 2 with 2 N HCl and hydrogenated at room temperature and a pressure of 50 p.s.i. over a platinum oxide catalyst until hydrogen uptake ceased. The catalyst was then removed by filtration and the filtrate was taken to dryness in vacuo to give a white solid which was dissolved in the minimum volume of hot ethanol, filtered quickly, and left at room temperature overnight. The resultant white crystals were collected by filtration and dried to yield 4-(2-methanesulphonamidoethyl)piperidine hydrochloride (8.3 g.), m.p. 165°-167° C.

reactant | 4-(2-methanesulphonamidoethyl)pyridine | 8.4 g | CS(=O)(=O)NCCC1=CC=NC=C1 | C8H12N2O2S
reactant | HCl | 2 N | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 85 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 4-(2-methanesulphonamidoethyl)piperidine hydrochloride | 8.3 g | Cl.CS(=O)(=O)NCCC1CCNCC1 | InChI=1S/C8H18N2O2S.ClH/c1-13(11,12)10-7-4-8-2-5-9-6-3-8;/h8-10H,2-7H2,1H3;1H
